US04764521
B. Preparation of 5-[4-(2-propyl-3-hydroxy-4-chlorophenoxy)butyl]-tetrazole
A solution of 1.38 g. of 5-[4-(2-propyl-3-hydroxyphenoxy)butyl]-tetrazole in 25 ml. of tetrahydrofuran was cooled to -10° C. by means of an external alcohol-ice bath. One millimole of sulfuryl chloride was slowly added and the reaction mixture was stirred for one hour. The mixture was evaporated under reduced pressure and the residue was triturated with diethyl ether. The ether was evaporated and the residue was purified by reverse phase high pressure liquid chromatography. The appropriate fractions provided 42 mg. of the desired title product plus 92 mg. of the 2-propyl-3-hydroxy-6-chlorophenoxy isomer and a small amount of the 2-propyl-3-hydroxy-4,6-dichlorophenoxy compound.

reactant | 5-[4-(2-propyl-3-hydroxyphenoxy)butyl]-tetrazole | C(CC)C1=C(OCCCCC2=NN=NN2)C=CC=C1O | C14H20N4O2
reactant | sulfuryl chloride | One millimole | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-[4-(2-propyl-3-hydroxy-4-chlorophenoxy)butyl]-tetrazole | C(CC)C1=C(OCCCCC2=NN=NN2)C=CC(=C1O)Cl | C14H19ClN4O2
